US09227972B2
Step B: Dimethyl 4-(dibenzylamino)benzene-1,2-dicarboxylate
A 100-L, four-necked, round-bottomed flask was charged with the dimethyl 4-aminobenzene-1,2-dicarboxylate, K2CO3, KI (anhydrous), and 21.6 L of N,N-dimethylacetamide (DMAC, 200 ppm of water; however, the reaction can tolerate more water). Benzyl chloride (BnCl) was added in one portion, and the reaction mixture (brown slurry) was heated to 60° C. over 20 min using a steam bath. The steam bath was then shutoff, and the reaction temperature continued to increase to 76.8° C. over the next 30 min (exotherm). After cooling to 75° C., the reaction mixture was stirred at this temperature for 2 h and then stirred at 90° C. until <1.5% of the monobenzyl intermediate remained (ca. 8-12 h) (yellow/white slurry). [note, the reaction mixture gets very thick during the reaction]. The steam bath was turned off and the reaction mixture was allowed to cool to room temperature (18° C.), then diluted with 21.6 L (5 volumes) of methyl t-butyl ether (MTBE) and 43.2 L (10 volumes) of water. The resulting organic layer was separated, washed with water (2×28 L), and concentrated to ca. 18 L (ca. 3 volumes). The brown oil was then solvent-switched to THF (60 L) and concentrated to ca. 38 L (<1000 ppm water). The product mixture containing the title compound was used in the next step without further purification.

reactant | dimethyl 4-aminobenzene-1,2-dicarboxylate | NC=1C=C(C(=CC1)C(=O)OC)C(=O)OC | C10H11NO4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N-dimethylacetamide | 21.6 L | CN(C(C)=O)C | C4H9NO
reactant | Benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | methyl t-butyl ether | 21.6 L | C(C)(C)(C)OC | C5H12O
solvent | water | 43.2 L | O | H2O
product | Dimethyl 4-(dibenzylamino)benzene-1,2-dicarboxylate | C(C1=CC=CC=C1)N(C=1C=C(C(=CC1)C(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C24H23NO4
